US04072498
Using the procedure of Example 1, but substituting 2-bromo-N,N-dimethylbutyramide for 2-chloro-N,N-dimethylpropionamide and 3-phenyl-4-propylpyrazole for 4-methyl-3-phenylpyrazole, there was obtained α-ethyl-N,N-dimethyl-3-phenyl-4-propylpyrazole-1-acetamide, m.p. 63°-65.5° C.

reactant | 2-chloro-N,N-dimethylpropionamide | ClC(C(=O)N(C)C)C | C5H10ClNO
reactant | 3-phenyl-4-propylpyrazole | C1(=CC=CC=C1)C1=NNC=C1CCC | C12H14N2
reactant | 4-methyl-3-phenylpyrazole | CC=1C(=NNC1)C1=CC=CC=C1 | C10H10N2
product | α-ethyl-N,N-dimethyl-3-phenyl-4-propylpyrazole-1-acetamide | C(C)C(C(=O)N(C)C)N1N=C(C(=C1)CCC)C1=CC=CC=C1 | C18H25N3O
